US08476298B2
To a slurry of cyclopropane-1,1-dicarboxylic acid [3-fluoro-4-(6-hydroxy-7-methoxy-quinolin-4-yloxy)-phenyl]-amide(4-fluoro-phenyl)-amide (0.12 g, 0.23 mmol), hydroxypropyldiethylamine (0.090 mL, 0.61 mmol), triphenylphosphine (0.20 g, 0.76 mmol) in DCM (10 mL) was added DIAD (0.17 mL, 0.86 mmol). The resulting mixture was stirred at room temperature for 12 hours, after which time, the solvent was removed under reduced pressure. The residue was extracted with EtOAc and 1N HCl (6×) and brine (1×) followed by drying with Na2SO4. Concentration of the organic fraction in vacuo afforded ‘N-(4-{[6-{[3-(diethylamino)propyl]oxy}-7-(methyloxy)quinolin-4-yl]oxy}-3-fluorophenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide as a yellow oil (0.18 g, wet, ca 95% purity by analytical HPLC). Further purification by preparatory HPLC using ammonium acetate afforded the product in 99% purity by analytical HPLC. LCMS: m/z 619 (M+H)+. 1H NMR (DMSO-d6) δ 10.37 (br s, 1H), 10.00 (s, 1H), 8.44 (d, 1H), 7.87 (d, 1H), 7.62 (m, 2H), 7.49 (m, 2H), 7.41 (m, 2H), 7.13 (t, 2H), 6.40 (d, 1H), 4.17 (t, 2H), 3.93 (s, 3H), 2.59 (t, 2H), 2.49 (m, 6H), 1.91 (m, 4H), 0.94 (t, 6H).

reactant | cyclopropane-1,1-dicarboxylic acid [3-fluoro-4-(6-hydroxy-7-methoxy-quinolin-4-yloxy)-phenyl]-amide(4-fluoro-phenyl)-amide | 0.23 mmol, 0.12 g | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)O)OC)F | C27H21F2N3O5
reactant | hydroxypropyldiethylamine | 0.61 mmol, 0.090 mL | OCCCN(CC)CC | C7H17NO
reactant | triphenylphosphine | 0.76 mmol, 0.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.86 mmol, 0.17 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(4-{[6-{[3-(diethylamino)propyl]oxy}-7-(methyloxy)quinolin-4-yl]oxy}-3-fluorophenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | C(C)N(CCCOC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F)CC | C34H36F2N4O5
